US06642226B2
(−)-(3,5-Bis-trifluoromethyl-phenyl)-[3-(4-chloro-phenyl)-4-(4-cyclopropylmethyl-piperazin-1-yl)-piperidin-1-yl]-methanone
The title compound, MS: m/e=574.1 (M+H+), [α]58920=−18.46, [α]54620=−27.04, (c=0.3846, chloroform), was prepared in accordance with the general method of example 102 from (−)-1-{4-[1-(3,5-bis-trifluoromethyl-benzoyl)-3-(4-chloro-phenyl)-piperidin-4-yl]-piperazin-1-yl}-2,2,2-trifluoro-ethanone and cyclopropylmethylbromide.

reactant | (−)-1-{4-[1-(3,5-bis-trifluoromethyl-benzoyl)-3-(4-chloro-phenyl)-piperidin-4-yl]-piperazin-1-yl}-2,2,2-trifluoro-ethanone | FC(C=1C=C(C(=O)N2CC(C(CC2)N2CCN(CC2)C(C(F)(F)F)=O)C2=CC=C(C=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C26H23ClF9N3O2
reactant | cyclopropylmethylbromide | C1(CC1)CBr | C4H7Br
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (−)-(3,5-Bis-trifluoromethyl-phenyl)-[3-(4-chloro-phenyl)-4-(4-cyclopropylmethyl-piperazin-1-yl)-piperidin-1-yl]-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1CC(C(CC1)N1CCN(CC1)CC1CC1)C1=CC=C(C=C1)Cl)(F)F | C28H30ClF6N3O
